US04289914
PREPARATION OF 2-METHYL-2-(4-t-BUTYLPEROXY-1,1,4,4-TETRAMETHYLBUTYLPEROXY)-4-PENTANONE
A mixture of 19.62 g. (0.20 mole) of mesityl oxide, 61.40 g. (0.22 mole) of 4-t-butylperoxy-1,1,4,4-tetramethylbutyl hydroperoxide (84%) and 10.0 g. of Amberlyst 15® sulfonic acid type ion exchange resin was stirred for 16 hours at 28°-30° C. and then at 35° C. for 4 hours. The resin was separated by filtration and the filtrate subjected to steam distillation at 20 torr in the presence of sodium bicarbonate to maintain a slightly alkaline pH during the distillation. The distillation was ended when the removal of unreacted mesityl oxide was complete. The product was taken up in ether, the ether solution dried over anhydrous magnesium sulfate and the ether removed under reduced pressure. The product weighed 55.9 g. and was obtained in 84.4% yield.

reactant | mesityl oxide | 0.20 mole | O=C(C)C=C(C)C | C6H10O
reactant | 4-t-butylperoxy-1,1,4,4-tetramethylbutyl hydroperoxide | 0.22 mole | C(C)(C)(C)OOC(CCC(C)(C)OO)(C)C | C12H26O4
product | 2-METHYL-2-(4-t-BUTYLPEROXY-1,1,4,4-TETRAMETHYLBUTYLPEROXY)-4-PENTANONE | 84.4% yield | CC(C)(CC(C)=O)OOC(CCC(C)(C)OOC(C)(C)C)(C)C | C18H36O5
